US08211914B2
To a solution of 4-(3-trifluoromethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-ylamine (400 mg, 1.24 mmol) in methylene chloride (10 mL) was added diisopropylethylamine (0.60 mL, 3.30 mmol) followed by 2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl chloride (300 mg, 1.10 mmol). The reaction was stirred at room temperature for 24 hours and then diluted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate, dried over magnesium sulfate, filtered and evaporated to dryness under vacuum. The residue was purified by HPLC to yield 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [4-(3-trifluoromethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-amide as a light purple solid. The NMR spectrum obtained on the sample is compatible with its structure. LCMS calcd for C28H22F6N4O2 (m/e) 560, obsd 561 (M+H).

reactant | 4-(3-trifluoromethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-ylamine | 1.24 mmol, 400 mg | FC(C=1C=C(C=CC1)C1CCN(CC1)C1=NC=C(C=C1)N)(F)F | C17H18F3N3
reactant | diisopropylethylamine | 3.30 mmol, 0.60 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl chloride | 1.10 mmol, 300 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)Cl)C(F)(F)F | C11H5ClF3NO2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [4-(3-trifluoromethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-amide | FC(C=1C=C(C=CC1)C1CCN(CC1)C1=NC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)(F)F | C28H22F6N4O2
